US07112589B2
To a solution of 2-chloro-4-(2,2-dimethyl-propylamino)-pyrimidine-5-carbaldehyde (1.2 g, 5.27 mmol) in THF (20 ml) is added sulfamic acid (0.819 g, 8.4 mmol) at ambient temperature. To the mixture, sodium chlorite (1.43 g, 15.8 mmol) in water (10 ml) is added dropwise at 0° C. and the reaction mixture is allowed to warm to ambient temperature. After being stirred for 30 min. at ambient temperature, the reaction mixture is diluted with water and extracted with CH2Cl2. The combined extracts are washed with water, brine, dried over MgSO4 and concentrated under reduced pressure to afford crude acid (1.17 g). To a solution of the crude acid (0.5 g, 2.05 mmol) in CH2Cl2 (10 ml) are added oxalyl chloride (0.36 ml, 4.1 mmol) and catalytic amount of DMF successively at 0° C., and the mixture is allowed to warm to ambient temperature. After being stirred for 1 hour at ambient temperature, the mixture is transferred to a solution of p-methoxybenzylamine (2.25 g, 16.7 mmol) in THF (30 ml) at −10° C.–−20° C. and the reaction mixture is stirred for 1 hour. The reaction mixture is quenched with cold water and extracted with CH2Cl2. The combined extracts are washed with water, brine, dried over MgSO4 and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (eluent:n-hexane:AcOEt=2:1) give 2-chloro-4-(2,2-dimethyl-propylamino)-pyrimidine-5-carboxylic acid 4-methoxy-benzylamide. Rf=0.38 (n-hexane:AcOEt=2:1). 1H NMR (400 MHz, DMSO-d6) δ 1.01 (s, 9H), 3.35 (d, 2H), 3.81 (s, 3H), 4.52 (d, 2H), 6.23 (brs, 1H), 6.90 (d, 2H), 7.25 (d, 2H), 8.15 (s, 1H), 9.09 (brs, 1H).

reactant | 2-chloro-4-(2,2-dimethyl-propylamino)-pyrimidine-5-carbaldehyde | 5.27 mmol, 1.2 g | ClC1=NC=C(C(=N1)NCC(C)(C)C)C=O | C10H14ClN3O
reactant | sulfamic acid | 8.4 mmol, 0.819 g | S(N)(O)(=O)=O | H3NO3S
reactant | sodium chlorite | 15.8 mmol, 1.43 g | Cl(=O)[O-].[Na+]
reactant | oxalyl chloride | 4.1 mmol, 0.36 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | p-methoxybenzylamine | 16.7 mmol, 2.25 g | COC1=CC=C(CN)C=C1 | C8H11NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | water | 10 ml | O | H2O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | DMF | CN(C)C=O | C3H7NO
product | 2-chloro-4-(2,2-dimethyl-propylamino)-pyrimidine-5-carboxylic acid 4-methoxy-benzylamide | COC1=CC=C(CNC(=O)C=2C(=NC(=NC2)Cl)NCC(C)(C)C)C=C1 | C18H23ClN4O2
